US07084250B2
3-(2-Acetylamino-2-methoxycarbonylvinyl)pyridinium tetrafluoroborate
Under nitrogen, a suspension of 2-methyl-4-[pyridin-3-yl-(Z)-methylene]-4H-oxazol-5-one (12.0 kg, 63.83 mol) in methanol (120.0 l) was heated at 60° C. Triethylamine (0.5 l) was pumped in, and the apparatus was rinsed with methanol (0.5 l) (the pH of a sample taken, measured using a glass electrode, was pH 8.15). Within a period of 30 min, the reaction solution was cooled to 30° C. Tetrafluoroboric acid solution (48% strength in water, 11.8 kg, 64.5 mol) was added over a period of 30 min. Within 1 h, the mixture was cooled to an internal temperature of 10° C. and (if required after seeding) the suspension was then stirred at 10° C. for a further 3 h. Methyl tert-butyl ether (40.0 l) was added, and the mixture was stirred at 10° C. for 1 h. The suspension was introduced into a centrifuge which had been inertized with nitrogen, centrifuged, and the the product washed with methyl tert-butyl ether (20.0 l) and dried at 40° C. under reduced pressure. Yield: 18.7 kg (60.71 mol, 95.1% of theory). M.p.: 179.4° C.; MS (ESI+): m/z (%)=221 ([M+H+] of the free base, 100); 1H-NMR (200 MHz, DMSO-d6): δ=2.01 (s, 3H), 3.77 (s, 3H), 7.21 (s, 1H), 7.89 (dd, 1H), 8.48 (d, 1H), 8.76 (d, 1H), 8.98 (s, 1H), 9.92 (s, 1H); IR (KBr): ν=1726.9, 1670.1, 1091.5 cm−1.

reactant | 2-methyl-4-[pyridin-3-yl-(Z)-methylene]-4H-oxazol-5-one | 63.83 mol, 12.0 kg | CC=1OC(/C(/N1)=C/C=1C=NC=CC1)=O | C10H8N2O2
reactant | Triethylamine | 0.5 l | C(C)N(CC)CC | C6H15N
reactant | Tetrafluoroboric acid | 64.5 mol, 11.8 kg | F[B-](F)(F)F.[H+]
reactant | Methyl tert-butyl ether | 40.0 l | C(C)(C)(C)OC | C5H12O
reactant | methanol | 120.0 l | CO | CH4O
product | 3-(2-Acetylamino-2-methoxycarbonylvinyl)pyridinium tetrafluoroborate | F[B-](F)(F)F.C(C)(=O)NC(=CC=1C=[NH+]C=CC1)C(=O)OC | InChI=1S/C11H12N2O3.BF4/c1-8(14)13-10(11(15)16-2)6-9-4-3-5-12-7-9;2-1(3,4)5/h3-7H,1-2H3,(H,13,14);/q;-1/p+1
